US07405210B2
2-(S)-[(6-Chloro-1H-pyrrolo[2,3-b]pyridine-2-carbonyl)amino]-3-(4-fluorophenyl) propionic acid ethyl ester
To a solution of 6-chloro-1H-pyrrolo[2,3b]pyridine-2-carboxylic acid (Preparation 110, 450 mg, 2.29 mmol) in DMF (20 mL) was added 4-fluoro phenylalanine ethyl ester hydrochloride (624 mg, 2.52 mmol), DIPEA (1.40 mL, 8.01 mmol) and HOBt. (386 mg, 2.52 mmol) and the reaction stirred. After 5 min EDCI (570 mg, 2.98 mmol) was added and stirring continued for 16 hr. Solvent was removed in vacuo then crude material partitioned between ethyl acetate (75 mL) and water (50 mL). Organics were washed with NaHCO3 solution (3×50 mL) then brine (2×50 mL), dried (MgSO4) and THE solvent removed in vacuo to give the title compound. m/z (ES+)=389.90 [M+H]+; RT=3.79 min.

reactant | 4-fluoro phenylalanine ethyl ester hydrochloride | 2.52 mmol, 624 mg | Cl.C(C)OC([C@@H](N)CC1=CC=C(C=C1)F)=O
reactant | DIPEA | 8.01 mmol, 1.40 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 2.98 mmol, 570 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(S)-[(6-Chloro-1H-pyrrolo[2,3-b]pyridine-2-carbonyl)amino]-3-(4-fluorophenyl) propionic acid ethyl ester | C(C)OC([C@H](CC1=CC=C(C=C1)F)NC(=O)C1=CC=2C(=NC(=CC2)Cl)N1)=O | C19H17ClFN3O3
